US03975388
b. 6-(3-Chloro-4-methoxyphenyl)-4,5-dihydro-3(2H)-pyridazinone
This compound was prepared in 84% yield by reaction of 3-(3-chloro-4-methoxybenzoyl)propionic acid with hydrazine hydrate in ethanolic solution at reflux temperature for 5 hours. It had mp 194°-195°C after crystallisation from ethanol.

reactant | 3-(3-chloro-4-methoxybenzoyl)propionic acid | ClC=1C=C(C(=O)CCC(=O)O)C=CC1OC | C11H11ClO4
reactant | hydrazine hydrate | O.NN
product | 6-(3-Chloro-4-methoxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 84% yield | ClC=1C=C(C=CC1OC)C=1CCC(NN1)=O | C11H11ClN2O2
